US09216978B2
Methyl 3,3-dicyano-2,2-dimethylpropanoate
3 g (45.411 mmol) of malononitrile were added slowly to 1.816 g (45.411 mmol) of sodium hydride (60% in mineral oil) in THF (91 ml). 5.876 ml (45.411 mmol) of methyl 2-bromo-2-methylpropanoate were then added, and the mixture was stirred at RT overnight. Another 5.876 ml (45.411 mmol) of methyl 2-bromo-2-methylpropanoate were then added, and the mixture was heated at 50° C. overnight. Another 1.762 ml (13.623 mmol) of methyl 2-bromo-2-methylpropanoate were then added, and the mixture was heated at 50° C. for another 4 h. Saturated aqueous sodium bicarbonate solution was then added, and the mixture was extracted three times with ethyl acetate. The combined organic phases were washed with saturated aqueous sodium chloride solution, dried with sodium sulphate, filtered and concentrated to dryness. This gave 8.9 g of crude product which was purified by chromatography on silica gel (cyclohexane/ethyl acetate 4:1).

reactant | malononitrile | 45.411 mmol, 3 g | C(CC#N)#N | C3H2N2
reactant | sodium hydride | 45.411 mmol, 1.816 g | [H-].[Na+]
reactant | methyl 2-bromo-2-methylpropanoate | 45.411 mmol, 5.876 ml | BrC(C(=O)OC)(C)C | C5H9BrO2
reactant | methyl 2-bromo-2-methylpropanoate | 45.411 mmol, 5.876 ml | BrC(C(=O)OC)(C)C | C5H9BrO2
reactant | methyl 2-bromo-2-methylpropanoate | 13.623 mmol, 1.762 ml | BrC(C(=O)OC)(C)C | C5H9BrO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 91 ml | C1CCOC1 | C4H8O
product | Methyl 3,3-dicyano-2,2-dimethylpropanoate | C(#N)C(C(C(=O)OC)(C)C)C#N | C8H10N2O2
